US05190934
A solution of 0.48 g of ethyl 3-(N-tert.-butoxycarbonylamino)-2-(4-chlorophenyl)-2-hydroxy-propyl(diethoxymethyl)phosphinate in 10 ml of anhydrous dichloromethane is treated with 0.76 g of trimethylbromosilane and the resulting colourless solution stirred for 24 hours at room temperature under an inert atmosphere. The volatile materials are removed under reduced pressure to give a foam which is redisslued in 5 ml of methanol containing 1% of water and the solution stirred for 20 hours at room temperature. After this time evaporation of the solvent in vacuo followed by chromatography of the residue on reverse-phase silicagel and drying of the off white solid thus obtained in high vacuum gives 3-amino-2-(4-chlorophenyl)-2-hydroxypropyl(diethoxymethyl)phosphinic acid hydrobromide salt. Dissolution of the salt in the methanol and treatment with propylene oxide gives 3-amino-2-(4-chlorophenyl)-2-hydroxy-propyl(diethoxymethyl)phosphinic acid; 1H-NMR (D2O): δ(ppm)=7.39 (4H, m, Ph), 4.75 (1H, d, CH--P), 3.67-3.23 (6H, m, 2×CH2CO+CH 2 N), 2.38-1.97 (2H, ABq, CH2P), 1.23-1.04 (6H, t, 2×CH3).

reactant | ethyl 3-(N-tert.-butoxycarbonylamino)-2-(4-chlorophenyl)-2-hydroxy-propyl(diethoxymethyl)phosphinate | 0.48 g | C(C)(C)(C)OC(=O)NCC(CP(OCC)(=O)C(OCC)OCC)(O)C1=CC=C(C=C1)Cl | C21H35ClNO7P
reactant | trimethylbromosilane | 0.76 g | C[Si](Br)(C)C | C3H9BrSi
reactant | water | O | H2O
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | methanol | 5 ml | CO | CH4O
product | 3-amino-2-(4-chlorophenyl)-2-hydroxypropyl(diethoxymethyl)phosphinic acid hydrobromide salt | Br.NCC(CP(O)(=O)C(OCC)OCC)(O)C1=CC=C(C=C1)Cl | InChI=1S/C14H23ClNO5P.BrH/c1-3-20-13(21-4-2)22(18,19)10-14(17,9-16)11-5-7-12(15)8-6-11;/h5-8,13,17H,3-4,9-10,16H2,1-2H3,(H,18,19);1H
